US07906532B2
Step 1. Ethyl 5-fluoro-1-isopropyl-1H-indazole-3-carboxylate
To a stirred solution of ethyl 5-fluoro-1H-indazole-3-carboxylate (487 mg, 2.3 mmol, J. Heterocycl. Chem. 1964, 1, 239-241) in tetrahydrofuran (4 mL) was added potassium tert-butoxide (289 mg, 2.57 mmol) at 0° C. After stirring at 0° C. for 1 h, 2-iodopropane (438 mg, 2.57 mmol) was added to the mixture. The resulting mixture was stirred at room temperature for 20 h and concentrated under reduced pressure. The mixture was diluted with ethyl acetate (50 mL), washed with water (30 mL) and brine (30 mL). The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (10:1 to 2:1) to give 205 mg (35%) of the title compound as a yellow crystal.

reactant | ethyl 5-fluoro-1H-indazole-3-carboxylate | 2.3 mmol, 487 mg | FC=1C=C2C(=NNC2=CC1)C(=O)OCC | C10H9FN2O2
reactant | potassium tert-butoxide | 2.57 mmol, 289 mg | CC(C)([O-])C.[K+]
reactant | 2-iodopropane | 2.57 mmol, 438 mg | IC(C)C | C3H7I
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | Ethyl 5-fluoro-1-isopropyl-1H-indazole-3-carboxylate | 205 mg, 35% | FC=1C=C2C(=NN(C2=CC1)C(C)C)C(=O)OCC | C13H15FN2O2
